US08071624B2
Step 2. (3S)-1-Phenylpiperidine-3-carboxylic acid
A mixture of bromobenzene (0.82 mL, 0.0078 mol), (3S)-piperidine-3-carboxylic acid hydrochloride (6.5 mmol, 0.0065 mol), sodium tert-butoxide (1.2 g, 0.013 mol), palladium acetate (40 mg, 0.0002 mol) and 2-(di-tert-butylphosphino)biphenyl (60 mg, 0.0002 mol) was degassed under vacuum and charged with nitrogen. To the mixture was added 1,4-dioxane (20 mL, 0.2 mol) and the resulting mixture was refluxed overnight. After cooling the reaction mixture to ambient temperature, the mixture was filtered and the filtrate was adjusted with TFA to pH=3.0 and extracted with EtOAc. The crude product was used in the following step without further purification.

reactant | bromobenzene | 0.0078 mol, 0.82 mL | BrC1=CC=CC=C1 | C6H5Br
reactant | (3S)-piperidine-3-carboxylic acid hydrochloride | 6.5 mmol | Cl.N1C[C@H](CCC1)C(=O)O
reactant | sodium tert-butoxide | 0.013 mol, 1.2 g | CC(C)([O-])C.[Na+]
reactant | 2-(di-tert-butylphosphino)biphenyl | 0.0002 mol, 60 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | 1,4-dioxane | 0.2 mol, 20 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.0002 mol, 40 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (3S)-1-Phenylpiperidine-3-carboxylic acid | C1(=CC=CC=C1)N1C[C@H](CCC1)C(=O)O | C12H15NO2
